US04722929
2-(2-Methoxy-4-methylaminosulfonyl-phenyl)-5H-imidazo[4,5-d]pyridazin-4-one
Prepared analogously to Example 11 from 2-(2-methoxy-4-chlorosulfonyl-phenyl)-5-H-imidazo[4,5-d]pyridazin-4-one and aqueous methylamine solution

reactant | 2-(2-methoxy-4-chlorosulfonyl-phenyl)-5-H-imidazo[4,5-d]pyridazin-4-one | COC1=C(C=CC(=C1)S(=O)(=O)Cl)C=1N=C2C(=CNNC2=O)N1 | C12H9ClN4O4S
reactant | methylamine | CN | CH5N
product | 2-(2-Methoxy-4-methylaminosulfonyl-phenyl)-5H-imidazo[4,5-d]pyridazin-4-one | COC1=C(C=CC(=C1)S(=O)(=O)NC)C=1N=C2C(=CNNC2=O)N1 | C13H13N5O4S
